US08580813B2
[1-Phenyl-2-(1-phenyl-ethyl)-1H-pyrrolo[3,2-b]pyridin-3-yl]-piperazin-1-yl-methanone
A solution of the compound of example 1, step 5, (120 mg, 27 μmol), α-methylbenzylzinc bromide (820 μl, 408 μmol, 0.5 M in THF), tri(tert-butyl)phosphonium tetrafluoroborate (15.6 mg, 54 μmol) and bis(dibenzylideneacetone)palladium (15.6 mg, 27 μmol) in THF (5 ml) was stirred for 12 h at 80° C. The reaction mixture was diluted with water and extracted with EA. The organic layer was dried over sodium sulfate, filtered and evaporated under reduced pressure. The intermediate was purified by preparative HPLC and reacted analogously as described in example 1, step 7. The obtained solid was dissolved in a small quantity of MOH, mixed with hydrochloric acid (0.1 M) and lyophilized overnight to give 20 mg of the title compound in the form of the [1-phenyl-2-(1-phenyl-ethyl)-1H-pyrrolo[3,2-b]pyridin-3-yl]-piperazin-1-yl-methanone dihydrochloride.

reactant | α-methylbenzylzinc bromide | 408 μmol, 0.5 M, 820 μl | [Br-].CC(C1=CC=CC=C1)[Zn+]
reactant | tri(tert-butyl)phosphonium tetrafluoroborate | 54 μmol, 15.6 mg | F[B-](F)(F)F.C(C)(C)(C)[PH+](C(C)(C)C)C(C)(C)C
reactant | hydrochloric acid | 0.1 M | Cl | ClH
reactant | [1-phenyl-2-(1-phenyl-ethyl)-1H-pyrrolo[3,2-b]pyridin-3-yl]-piperazin-1-yl-methanone dihydrochloride | Cl.Cl.C1(=CC=CC=C1)N1C(=C(C2=NC=CC=C21)C(=O)N2CCNCC2)C(C)C2=CC=CC=C2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
catalyst | bis(dibenzylideneacetone)palladium | 27 μmol, 15.6 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | [1-Phenyl-2-(1-phenyl-ethyl)-1H-pyrrolo[3,2-b]pyridin-3-yl]-piperazin-1-yl-methanone | 20 mg | C1(=CC=CC=C1)N1C(=C(C2=NC=CC=C21)C(=O)N2CCNCC2)C(C)C2=CC=CC=C2 | C26H26N4O
